US05071999
b) 2-Phenyl-2,7-diazabicyclo[3.3.0]octane
7.6 g (31.6 mmol) of ethyl 2-phenyl-2,7-diazabicyclo [3.3.0]octane-7-carboxylate are heated under reflux overnight with 50 ml of concentrated hydrochloric acid. The mixture is concentrated, the residue is taken up in 50 ml of 10% strength sodium hydroxide solution and the mixture is extracted five times using 50 ml of chloroform each time. The extracts are dried over potassium carbonate and concentrated, and the residue is distilled.

reactant | ethyl 2-phenyl-2,7-diazabicyclo [3.3.0]octane-7-carboxylate | 31.6 mmol, 7.6 g | C1(=CC=CC=C1)N1C2CN(CC2CC1)C(=O)OCC | C15H20N2O2
solvent | hydrochloric acid | 50 ml | Cl | ClH
product | 2-Phenyl-2,7-diazabicyclo[3.3.0]octane | C1(=CC=CC=C1)N1C2CNCC2CC1 | C12H16N2
